US06251926B1
A mixture of 2-(3-benzoylphenyl)-2-(hydroxyimino)acetonitrile (14.5 g), 4N aqueous solution of potassium hydroxide (80 ml) and ethanol (80 ml) was heated under reflux for 20 hours. The reaction mixture was cooled to room temperature, 1N hydrochloric acid was added to make the solution acidic and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was dissolved in ethanol (150 ml) and concentrated sulfuric acid (catalytic amount) was added. The reaction mixture was heated under reflux for 15 hours, cooled to room temperature, poured into an aqueous saturated solution of sodium bicarbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl Z-2-(3-benzoylphenyl)-2-(hydroxyimino)acetate (2.48 g, yield 14%) as a pale-brown oil from an ethyl acetate-hexane (1:2, v/v)-eluted fraction.

reactant | 2-(3-benzoylphenyl)-2-(hydroxyimino)acetonitrile | 14.5 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C#N)=NO | C15H10N2O2
reactant | potassium hydroxide | 80 ml | [OH-].[K+]
reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl Z-2-(3-benzoylphenyl)-2-(hydroxyimino)acetate | 2.48 g, yield 14% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)/C(/C(=O)OCC)=N/O | C17H15NO4
